** sch_path: /home/ishi-kai/Projects/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/OBUF_SSF/OBUF_SSF.sch
.subckt OBUF_SSF VDD VSS VIN IBN40U VOUT
*.PININFO VDD:I VSS:I VIN:I IBN40U:I VOUT:O
MM1 hogehoge VIN VOUT VSS NMOS w=10u l=1u m=32
MM3 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM6 IBN40U IBN40U VSS VSS NMOS w=10u l=2u m=2
MM4 hogehoge net1 VDD VDD PMOS w=10u l=2u m=16
MM5 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM8 net1 IBN40U VSS VSS NMOS w=10u l=2u m=16
MM9 net1 net1 VDD VDD PMOS w=10u l=2u m=2
MM10 net2 net1 VDD VDD PMOS w=10u l=2u m=2
MM11 net2 net2 VSS VSS NMOS w=10u l=2u
MM2 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM7 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM12 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM13 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM14 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM15 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM16 VDD VDD VDD VDD PMOS w=10u l=2u m=8
MM24 net2 net2 VSS VSS NMOS w=10u l=2u
MM20 VSS VSS VSS VSS NMOS w=10u l=2u m=6
MM31 VDD VDD VDD VDD PMOS w=10u l=2u m=4
MM32 VSS VSS VSS VSS NMOS w=10u l=2u m=6
.ends
